US06566357B1
Preparation of 4-methylene-pyrazolidine-1-carboxylic acid 1-benzyl ester (2):
To a solution of crude 4-methylenepyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester, 1, (30 g) in methanol (300 mL) is added thionyl chloride dropwise at 0° C. The reaction is warmed to room temperature and stirred an additional 18 hours. Concentration of the reaction in vacuo affords a yellow oil which crystallizes upon standing to provide 23 g (97% yield) of the desired product as the HCl salt.

reactant | 4-methylenepyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1N(CC(C1)=C)C(=O)OCC1=CC=CC=C1 | C17H22N2O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 4-methylene-pyrazolidine-1-carboxylic acid 1-benzyl ester | 23 g, 97% yield | C(C1=CC=CC=C1)OC(=O)N1NCC(C1)=C | C12H14N2O2
